US07405300B2
2-[4-(2-Hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde is dissolved in methanol and treated with 1M ethereal hydrochloric acid. After stirring for 30 min., the solvent is removed and the residue is dissolved in a small amount of methanol and treated with ether to precipitate 2-[4-(2-hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde hydrochloride (85% yield) as a cream solid. ESI/MS 350 (M+H); RT 2.32 min; NMR 10.15 (1H, s); 8.13 (1H, d, 9 Hz); 7.70 (5H, m); 7.25 (2H, m); 6.96 (1H, d, J=6 Hz); 5.31 (1H, br s); 3.73 (2H, br s); 3.56 (6H, br m); 3.17 (2H, br s); 2.97 (2H, br s).

reactant | 2-[4-(2-Hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde | OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C21H23N3O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde hydrochloride | 85% yield | Cl.OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | InChI=1S/C21H23N3O2.ClH/c25-15-14-22-10-12-23(13-11-22)21-19(16-26)18-8-4-5-9-20(18)24(21)17-6-2-1-3-7-17;/h1-9,16,25H,10-15H2;1H
